US07351827B2
Benzotriazole (0.15 g, 1.3 mmol) in dry CH2Cl2 (4 mL) at 0° C. was added to a stirred solution under N2 of 3-phenyl-1,5-dioxaspiro[3.2]hexane (0.21 g, 1.3 mmol) in dry CH2Cl2 (4 mL) at 0° C. The reaction mixture was left to stir for 3 hours at 0° C. It was then concentrated to provide a light brown oil. The residue was purified by flash chromatography on silica gel (petroleum ether/EtOAc 80:20) to give 2-(benzotriazol-2-yl)-2-(hydroxymethyl)-3-phenyloxetane as a white solid (0.15 g, 41%): mp 119-123° C.; IR (film) 3437 (br), 3094, 3064, 2941, 1560, 1499 cm−1; 1H NMR (400 MHz, CDCl3) δ 7.95 (d, J=8.1 Hz, 2H), 7.35 (m, 7H), 5.42 (dd, J=8.7, 7.0 Hz, 1H), 5.20 (dd, J=8.7, 6.0 Hz, 1H), 5.09 (dd, J=6.8, 6.0 Hz, 1H), 4.25 (dd, J=13.0, 7.7 Hz, 1H), 4.20 (dd, J=13.0, 7.0 Hz, 1H), 2.6 (dd, J=7.3, 7.3 Hz, 1H); 13C NMR (100 MHz, CDCl3) δ 144.8, 134.3, 129.3, 128.6, 128.5, 127.8, 119.1, 102.2, 69.8, 63.8, 48.8; MS (EI) m/z 281 (M+), 251, 162, 104 (100), 91; HRMS (FAB) calculated for C16H16N3O2 (M++H) m/z 282.1242. Found: 282.1248; Anal. calculated for C16H15N3O2: C, 68.31; H, 5.37; N, 14.94. Found: C, 68.13; H, 5.40; N, 14.97.

reactant | Benzotriazole | 1.3 mmol, 0.15 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 3-phenyl-1,5-dioxaspiro[3.2]hexane | 1.3 mmol, 0.21 g | C1(=CC=CC=C1)C1COC12OC2 | C10H10O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-(benzotriazol-2-yl)-2-(hydroxymethyl)-3-phenyloxetane | 0.15 g, 41% | N=1N(N=C2C1C=CC=C2)C2(OCC2C2=CC=CC=C2)CO | C16H15N3O2
